US08633173B2
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-amine was prepared from 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (100.0 mg, 0.3468 mmol) and 6-bromo-1,1,4,4-tetramethyl-1,2,3,4-tetrahydro-naphthalene (140.0 mg, 0.5239 mmol) in a manner analogous to Step 2d and was isolated as a yellow foam (0.049 g, 30%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.47 (dd, J=6.7, 1.1 Hz, 1H), 8.29-8.25 (m, 2H), 8.10-8.05 (m, 2H), 7.65 (dd, J=7.5, 1.2 Hz, 1H), 7.57 (d, J=2.3 Hz, 1H), 7.36-7.27 (m, 2H), 7.00 (dd, J=7.2, 7.2 Hz, 1H), 6.76 (s, 1H), 3.10 (s, 3H), 1.74-1.66 (m, 4H), 1.33 (s, 6H), 1.28 (s, 6H). MS=475 (MH)+.

reactant | 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.3468 mmol, 100.0 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O2S
reactant | 6-bromo-1,1,4,4-tetramethyl-1,2,3,4-tetrahydro-naphthalene | 0.5239 mmol, 140.0 mg | BrC=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C14H19Br
product | [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=1C(CCC(C1C=C2)(C)C)(C)C | C27H30N4O2S
